US08492405B2
A mixture of 5-formyl-2-methylthiophene-3-carboxylic acid (1.25 g), triethylamine (1.4 mL), diphenylphosphoryl azide (2.2 mL) and N,N-dimethylformamide (20 mL) was stirred for 1 hr under ice-cooling. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was dissolved in toluene (20 mL), and benzyl alcohol (0.7 mL) was added. The reaction mixture was stirred at 110° C. for 2 hr and concentrated. The residue was subjected to silica gel column chromatography to give benzyl (5-formyl-2-methyl-3-thienyl)carbamate (1.6 g, yield 80%) as yellow crystals from a fraction eluted with is ethyl acetate-hexane (1:3, volume ratio). melting point 120° C.

reactant | 5-formyl-2-methylthiophene-3-carboxylic acid | 1.25 g | C(=O)C1=CC(=C(S1)C)C(=O)O | C7H6O3S
reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 2.2 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
product | benzyl (5-formyl-2-methyl-3-thienyl)carbamate | 1.6 g, yield 80% | C(=O)C1=CC(=C(S1)C)NC(OCC1=CC=CC=C1)=O | C14H13NO3S
